US08202858B2
N-[4-(9-Chloro-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-methyl-benzyl]-isobutyramide
Isobutyryl chloride (0.07 ml, 0.07 mmol) was added to a solution of (4-aminomethyl-3-methyl-phenyl)-(9-chloro-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-methanone from Example E125.3 (24 mg, 0.07 mmol) in dichloromethane (3 ml) and DIEA (0.10 ml, 0.57 mmol) at 0° C. The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 5% methanol:95% dichloromethane to 10% methanol:90% di-chloromethane) to give a colourless oil identified as the title compound 24 mg, 85%).

reactant | Isobutyryl chloride | 0.07 mmol, 0.07 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | (4-aminomethyl-3-methyl-phenyl)-(9-chloro-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-methanone | NCC1=C(C=C(C=C1)C(=O)N1C2=C(C=3NC(=NC3CC1)C)C=C(C=C2)Cl)C | C21H21ClN4O
reactant | DIEA | 0.57 mmol, 0.10 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-[4-(9-Chloro-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-methyl-benzyl]-isobutyramide | 24 mg, 85% | ClC=1C=CC2=C(C=3NC(=NC3CCN2C(=O)C2=CC(=C(CNC(C(C)C)=O)C=C2)C)C)C1 | C25H27ClN4O2
